US07915443B2
tert-Butyl[4-(methylthio)phenyl]carbamate
4-Methylsulfanyl-phenylamine (0.5 g, 3.59 mmol) was dissolved in THF (12 mL) The resulting solution was treated with di-tert butyl dicarbonate (1.02 g, 4.67 mmol) and then with TEA (1.5 mL, 10.78 mmol). The reaction was heated at 50° C. for 3 h and then allowed to cool to room temperature. The cool reaction mixture was taken up in EtOAc (20 mL) and extracted with H2O (20 mL). The organic layer was further washed with a saturated aqueous solution of NaHCO3 (20 mL). The organic layer was dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude mixture was purified via column chromatography (gradient eluant mixture of EtOAc in Hexanes: 0% to 100% EtOAc) to the title compound (0.652 g, 76%).

reactant | 4-Methylsulfanyl-phenylamine | 3.59 mmol, 0.5 g | CSC1=CC=C(C=C1)N | C7H9NS
reactant | di-tert butyl dicarbonate | 4.67 mmol, 1.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl[4-(methylthio)phenyl]carbamate | C(C)(C)(C)OC(NC1=CC=C(C=C1)SC)=O | C12H17NO2S
